US08168783B2
Methyl {4-[(tert-butoxycarbonyl)amino]piperidin-1-yl}acetate
4-(tert-butoxycarbonylamino)piperidine (1.2 g) and potassium carbonate (1.2 g) were suspended in dimethylformamide (20 mL), and then methyl bromoacetate (0.62 mL) was added. The reaction solution was stirred for one hour and water was added, followed by extraction with ethyl acetate. The organic layer was washed in turn with water and saturated brine, and dried over anhydrous magnesium sulfate, and then the filtrate was concentrated. The residue was purified by silica gel chromatography (hexane:ethyl acetate=2:1→0:1) to obtain the title compound (1.36 g) having the following physical properties.

reactant | 4-(tert-butoxycarbonylamino)piperidine | 1.2 g | C(C)(C)(C)OC(=O)NC1CCNCC1 | C10H20N2O2
reactant | potassium carbonate | 1.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 0.62 mL | BrCC(=O)OC | C3H5BrO2
reactant | water | O | H2O
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | Methyl {4-[(tert-butoxycarbonyl)amino]piperidin-1-yl}acetate | 1.36 g | C(C)(C)(C)OC(=O)NC1CCN(CC1)CC(=O)OC | C13H24N2O4
